US05859007
To a stirred solution of 7.00 g (56.8 mmol) p-Anisidine, 9.56 g (114 mmol, 2.0 equiv) Cyclopentanone, and 4.10 g (68.2 mmol, 1.2 equiv) Acetic acid in 145 mL Methanol is added 125 mL (125 mmol, 2.2 equiv) 1N Sodium cyanoborohydride in THF and stirred 18 h at ambient temperature. The reaction mixture is concentrated in vacuo and the residue taken into 200 mL EtOAc, washed with H2O (150 mL), dried (MgSO4), filtered and concentrated in vacuo to give crude Cyclopentyl-(4-methoxy-phenyl)-amine as a brown oil. To a stirred solution of this material and 6.03 g (58.6 mmol, 1.05 equiv) Et3N in 70 mL DCM is added 11.47 g (56.8 mmol, 1 equiv) Bromoacetyl bromide in 50 mL DCM dropwise over 30 minutes at 0° C. The reaction mixture is stirred 1 h at 0° C. followed by warming to ambient temperature and stirring 18 h. The reaction mixture is washed with 1N HCl (3×50 mL), dried (MgSO4), filtered through a pad of 100 g silica gel eluted with EtOAc/Hexanes (3:17, 1.5 L), and concentrated in vacuo to give 10.22 g (32.7 mmol) of 2-Bromo-N-cyclopentyl-N-(4-methoxy-phenyl)-acetamide as an orange oil: 1H NMR (CDCl3, 300 MHz) δ7.09 (d, 2H, J=9.0), 6.90 (d, 2H, J=9.0), 4.84 (m,1H), 3.83 (s, 3H), 3.54 (s, 2H), 1.87 (m, 2H), 1.49 (m, 4H), 1.25 (m, 2H); TLC Rf =0.65 (EtOAc/Hexanes, 3:17).

reactant | p-Anisidine | 56.8 mmol, 7.00 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | Cyclopentanone | 114 mmol, 9.56 g, 2.0 equiv | C1(CCCC1)=O | C5H8O
reactant | Acetic acid | 68.2 mmol, 4.10 g, 1.2 equiv | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 125 mmol, 1N, 125 mL, 2.2 equiv | C(#N)[BH3-].[Na+]
solvent | Methanol | 145 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | Cyclopentyl-(4-methoxy-phenyl)-amine | C1(CCCC1)NC1=CC=C(C=C1)OC | C12H17NO
